US08138205B2
(Bromomethyl)cyclopropane (136 g, 1.01 mol) and potassium carbonate (173 g, 1.25 mol) were added to a solution of methyl 3-hydroxy-4-methoxy-2-nitrobenzoate (190 g, 837 mmol) and dimethylformamide (1 L). The mixture was stirred at room temperature overnight and then quenched with water/ice (3 L). The resulting solids were collected by filtration, washed with water (500 mL×3), and then dried in an oven to give 220 g of methyl 3-(cyclopropylmethoxy)-4-methoxy-2-nitrobenzoate as a yellow solid. MS (ESI): 281.9.

reactant | (Bromomethyl)cyclopropane | 1.01 mol, 136 g | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 1.25 mol, 173 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-hydroxy-4-methoxy-2-nitrobenzoate | 837 mmol, 190 g | OC=1C(=C(C(=O)OC)C=CC1OC)[N+](=O)[O-] | C9H9NO6
solvent | dimethylformamide | 1 L | CN(C=O)C | C3H7NO
product | methyl 3-(cyclopropylmethoxy)-4-methoxy-2-nitrobenzoate | 220 g | C1(CC1)COC=1C(=C(C(=O)OC)C=CC1OC)[N+](=O)[O-] | C13H15NO6
